US05606051
a) Ethyl 5-Ethyl-1-methylpyrazole-3-carboxylate
Ethyl 2,4-dioxohexanoate (12 g) in glacial acetic acid (75 ml) was cooled in an ice-bath and treated with methylhydrazine (3.21 g) in a dropwise fashion over 5-10 m. On complete addition the ice cooling was removed and the yellow homogeneous solution stirred at room temperature for ca. 2 h. The acetic acid was then removed in vacuo and the residual oil re-dissolved in ethyl acetate (- 100 mls). The ethyl acetate solution was washed with saturated sodium hydrogen carbonate (3×) and brine. After drying over anhydrous magnesium sulphate the solvent was evaporated. The crude material was purified by silica gel chromatography eluting with 20-70% ethyl acetate/hexane giving the title compound as a pale yellow oil, (6.656 g, 52%); dH (CDCl3) 1.28 (3H, t, J7.6 Hz), 1.38 (3H, t, 37.1 Hz), 2.61 (2H, q, J7.6 Hz), 3.84 (3H, s), 4.38 (2H, q, J7.1 Hz) and 6.58 (1H, s).

reactant | Ethyl 2,4-dioxohexanoate | 12 g | O=C(C(=O)OCC)CC(CC)=O | C8H12O4
reactant | methylhydrazine | 3.21 g | CNN | CH6N2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | Ethyl 5-Ethyl-1-methylpyrazole-3-carboxylate | C(C)C1=CC(=NN1C)C(=O)OCC | C9H14N2O2
